US06579875B1
b) 6-Chloro-7-cyclobutyl-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine
A mixture of 3,6-dichloro-4-cyclobutylpyridazine from above (3.0 g, 14.7 mmol), 2-fluorobenzhydrazide (3.0 g, 19.5 mmol) and triethylamine hydrochloride (3.0 g, 21.8 mmol) in p-xylene (50 ml) was stirred and heated at reflux under a stream of nitrogen for 20 hours. Upon cooling the volatiles were removed in vacuo. The residue was partitioned between dichloromethane and water. The aqueous was basified by the addition of solid potassium carbonate. Some dark insoluble material was removed by filtration at, this stage. The aqueous was further extracted with dichloromethane (×2). The combined extracts were dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica gel eluting with 20%→30% ethyl acetate/dichloromethane to give the title compound (2.2 g, 49%) as a light-brown solid. Data for the title compound: 1H NMR (250 MHz, CDCl3) δ1.85-2.08 (1H, m), 2.08-2.30 (3H, m), 2.38-2.64 (2H, m), 3.62-3.84 (1H, m), 7.19-7.46 (2H, m), 7.46-7.67 (1H, m), 7.80-7.96 (1H, m), 7.99 (1H, s), MS (ES+) m/e 303 [MH]+, 305 [MH]+.

reactant | 3,6-dichloro-4-cyclobutylpyridazine | ClC=1N=NC(=CC1C1CCC1)Cl | C8H8Cl2N2
reactant | 2-fluorobenzhydrazide | 19.5 mmol, 3.0 g | FC1=C(C(=O)NN)C=CC=C1 | C7H7FN2O
reactant | triethylamine hydrochloride | 21.8 mmol, 3.0 g | Cl.C(C)N(CC)CC
solvent | p-xylene | 50 ml | CC=1C=CC(=CC1)C | C8H10
product | 6-Chloro-7-cyclobutyl-3-(2-fluorophenyl)-1,2,4-triazolo[4,3-b]pyridazine | 2.2 g, 49% | ClC=1C(=CC=2N(N1)C(=NN2)C2=C(C=CC=C2)F)C2CCC2 | C15H12ClFN4
